US06734180B1
4-(2-indanylamino)pyrrolo[2,3-d]pyrimidine
4-chloropyrrolo[2,3-d]pyrimidine (83 mg, 0.54 mmol) (see J. Chem. Soc., 131 (1960), J. Org. Chem., 26, 3809 (1961)) and 2-aminoindan (220 mg, 1.6 mmol) in dry ethanol (5 ml) were heated to reflux under an argon atmosphere for 1 hour. The solvent was distilled off under reduced pressure and the residue obtained was purified by silica gel chromatography (ethyl acetate) to obtain the title compound (38 mg, 0.20 mmol) having the following physical properties:

reactant | 4-chloropyrrolo[2,3-d]pyrimidine | 0.54 mmol, 83 mg | ClC1=C2C(NC=N1)=NC=C2 | C6H4ClN3
reactant | 2-aminoindan | 1.6 mmol, 220 mg | NC1CC2=CC=CC=C2C1 | C9H11N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(2-indanylamino)pyrrolo[2,3-d]pyrimidine | 0.20 mmol, 38 mg | C1C(CC2=CC=CC=C12)NC1=C2C(NC=N1)=NC=C2 | C15H14N4
